US08247377B2
Intermediate 15: 5-Amino-N-[2-(aminomethyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide
5-amino-1-(4-fluorophenyl)-N-(3,3,3-trifluoro-2-hydroxy-2-{[(phenylmethyl)amino]methyl}propyl)-1H-pyrazole-4-carboxamide (20.47 g) was dissolved in ethanol (100 ml) and hydrogenated over 10% palladium on carbon (2 g). A small portion was filtered using celite to give an orange yellow solution and LC/MS analysis indicated complete reaction. Therefore the remainder of the suspension was then filtered and the orange yellow solution concentrated in vacuo to give a pale yellow solid. This was dried on the vacuum line overnight to give the title compound (14.64 g) as a white solid.

reactant | 5-amino-1-(4-fluorophenyl)-N-(3,3,3-trifluoro-2-hydroxy-2-{[(phenylmethyl)amino]methyl}propyl)-1H-pyrazole-4-carboxamide | 20.47 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(CNCC1=CC=CC=C1)O | C21H21F4N5O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | 5-Amino-N-[2-(aminomethyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 14.64 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CN | C14H15F4N5O2
